US07375227B2
392C. [3-(2-Methyl-quinolin-4-yl)-ureido]-acetic acid ethyl ester
A suspension of 4-amino-2-methylchinoline (4.0 g, 25.3 mmol) in dry THF (80 mL) is cooled to −14° C. and ethyl isocyanatoacetate (3.3 mL, 27.4 mmol) is added dropwise under vigourous stirring. The reaction is warmed to room temperature and stirred for 4 h. Further ethyl isocyanatoacetate (0.6 mL, 5 mmol) is added and the reaction mixture stirred for 15 h. The solvent is evaporated and the residue crystallized from CHCl3-heptane (1/5) to provide the title compound.

reactant | 4-amino-2-methylchinoline | 25.3 mmol, 4.0 g | NC1=CC(=NC2=CC=CC=C12)C | C10H10N2
reactant | ethyl isocyanatoacetate | 27.4 mmol, 3.3 mL | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | ethyl isocyanatoacetate | 5 mmol, 0.6 mL | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | [3-(2-Methyl-quinolin-4-yl)-ureido]-acetic acid ethyl ester | C(C)OC(CNC(=O)NC1=CC(=NC2=CC=CC=C12)C)=O | C15H17N3O3
